US05811432
The mixture of 2-bis(ethoxycarbonyl)methyl-5,6-dichloro-3-nitropyridine, 2-bis(ethoxycarbonyl)methyl-3,6-dichloro-5-nitropyridine and diethylmalonate was dissolved in ethanol (100 mL) and added to a suspension of 50% Raney nickel in water (30 g) diluted with ethanol (10 mL). The mixture was hydrogenated in a Parr shaker at 3 atmospheres pressure for 5 hours and then filtered through diatomaceous earth (Celite (trademark)) to remove the catalyst. The solvent was removed in vacuo to leave an oil which was subjected to flash chromatography on silica gel eluting with 4:1 hexane/ethyl acetate. Each of the fractions was separately concentrated and the residues examined by 1H NMR in deuterochloroform. Eluted after diethylmalonate was the desired product, 3-amino-2-bis(ethoxycarbonyl)methyl-5,6-dichloropyridine, followed closely thereafter by the unwanted isomer, 5-amino-2-bis(ethoxycarbonyl)methyl-3,6-dichloropyridine. Although clean separation from diethyl malonate was achieved, the bulk of the mass of desired product and the isomer eluted as mixed fractions. Leading fractions containing only 3-amino-2-bis(ethoxycarbonyl)methyl-5,6-dichloropyridine and mixed fractions containing at least 10% of this material were combined to afford a solid consisting of 3-amino-2-bis(ethoxycarbonyl)methyl-5,6-dichloropyridine (3.17 g) and the unwanted isomer, 3-amino-2-bis(ethoxycarbonyl)methyl-3,6-dichloropyridine (4.03 g). This mixture was taken up in 6N HCl solution (120 mL) and heated at reflux for 3 hours. After cooling to room temperature the volatiles were removed in vacuo. Ethanol was added and then evaporated to help remove water. This process was repeated. The resulting brown solid was subjected to flash chromatography on silica gel using 9:1 chloroform/methanol as eluant. All fractions containing the desired product were combined and concentrated to leave a solid which was triturated with methanol to afford 5,6-dichloro-4-azaoxindole (1.42 g, 71%) from 3-amino-2-bis(ethoxycarbonyl)methyl-5,6-dichloropyridine, 13% overall from 3-nitro-2,5,6-trichloropyridne). M.p. 230°-233° C. (dec).

reactant | 2-bis(ethoxycarbonyl)methyl-5,6-dichloro-3-nitropyridine | C(C)OC(=O)C(C1=NC(=C(C=C1[N+](=O)[O-])Cl)Cl)C(=O)OCC | C12H12Cl2N2O6
reactant | 2-bis(ethoxycarbonyl)methyl-3,6-dichloro-5-nitropyridine | C(C)OC(=O)C(C1=NC(=C(C=C1Cl)[N+](=O)[O-])Cl)C(=O)OCC | C12H12Cl2N2O6
reactant | diethylmalonate | C(C)C(C(=O)[O-])(C(=O)[O-])CC
reactant | 3-amino-2-bis(ethoxycarbonyl)methyl-5,6-dichloropyridine | 3.17 g | NC=1C(=NC(=C(C1)Cl)Cl)C(C(=O)OCC)C(=O)OCC | C12H14Cl2N2O4
reactant | 3-amino-2-bis(ethoxycarbonyl)methyl-3,6-dichloropyridine | 4.03 g | NC1(C(N=C(C=C1)Cl)C(C(=O)OCC)C(=O)OCC)Cl | C12H16Cl2N2O4
solvent | ethanol | 100 mL | C(C)O | C2H6O
catalyst | Raney nickel | [Ni] | Ni
solvent | water | 30 g | O | H2O
solvent | ethanol | 10 mL | C(C)O | C2H6O
solvent | HCl | 6N, 120 mL | Cl | ClH
solvent | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
product | 5,6-dichloro-4-azaoxindole | 1.42 g, 71% | ClC=1N=C2CC(NC2=CC1Cl)=O | C7H4Cl2N2O
